US08258306B2
To a solution of ethyl 2-(3-(phenyl(4-(trifluoromethyl)phenyl)methyl)piperidin-1-yl)acetate (0.5 g, 1.23 mmol) in THF/MeOH/water (12 mL, 7:3:2) at 5° C. was added LiOH.H2O (0.15 g, 3.7 mmol). After stirring at rt for 4 h, the solvent was removed under vacuum. The residue was diluted with water and the pH was adjusted to 4 with diluted HCl, extracted with ethyl acetate, and the combined organic layer was dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was dissolved in ethyl acetate and crashed out of pentane at cool condition to afford pure 2-(3-(phenyl(4-(trifluoromethyl)-phenyl)methyl)piperidin-1-yl)acetic acid (0.3 g, 65% yield) as an off white solid. MS (ESI, pos. ion) m/z: 378 (M+1).

reactant | ethyl 2-(3-(phenyl(4-(trifluoromethyl)phenyl)methyl)piperidin-1-yl)acetate | 1.23 mmol, 0.5 g | C1(=CC=CC=C1)C(C1CN(CCC1)CC(=O)OCC)C1=CC=C(C=C1)C(F)(F)F | C23H26F3NO2
reactant | LiOH.H2O | 3.7 mmol, 0.15 g | O[Li].O
solvent | THF MeOH water | 12 mL | C1CCOC1.CO.O
product | 2-(3-(phenyl(4-(trifluoromethyl)-phenyl)methyl)piperidin-1-yl)acetic acid | 0.3 g, 65% yield | C1(=CC=CC=C1)C(C1CN(CCC1)CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C21H22F3NO2
